US06365594B1
3-Bromo4,5-epoxy-17-methylmorphinan-6-ol
3.1 g (11.4 mmol) of 4,5-epoxy-17-methylmorphinan-6-ol were dissolved in 150 ml of glacial acetic acid and 11.4 ml of a 1M solution of Br2 in AcOH were added dropwise. After 1 h, AcOH was removed in vacuo, the residue was taken up with water, the aqueous solution was brought to pH 7 with a saturated NAHCO3 solution and extracted with AcOEt. The organic phase was dried over NA2SO4, the solvent was removed in vacuo, yielding 3.6 g of the title product.

reactant | 4,5-epoxy-17-methylmorphinan-6-ol | 11.4 mmol, 3.1 g | O1C2=CC=CC=3C[C@@H]4[C@@H]5CCC(C1[C@@]5(C23)CCN4C)O | C17H21NO2
reactant | Br2 | BrBr | Br2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | AcOH | CC(=O)O | C2H4O2
product | 3-Bromo4,5-epoxy-17-methylmorphinan-6-ol | 3.6 g | BrC=1C=CC=2C[C@@H]3[C@@H]4CCC(C5[C@@]4(C2C1O5)CCN3C)O | C17H20BrNO2
